US05554620
1-Isoquinolinecarboxaldehyde (7.3 g, 64%) was prepared from 1-isoquinolinecarboxylic acid methyl ester (13.6 g, 0.073 mol) and 1M LAH (36.6 ml in THF) in 300 ml of dry THF (J. Org. Chem., vol 28, p 1898, 1963) to afford 7.3 g (64%) of 1-isoquinolinecarboxaldehyde.

reactant | 1-isoquinolinecarboxylic acid methyl ester | 0.073 mol, 13.6 g | COC(=O)C1=NC=CC2=CC=CC=C12 | C11H9NO2
reactant | LAH | 1M, 36.6 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 1-isoquinolinecarboxaldehyde | 7.3 g, 64% | C1(=NC=CC2=CC=CC=C12)C=O | C10H7NO
